US07091353B2
2-Chloro-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}acetamide I-7
Triethylamine (0.6 g, 6 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.8 g, 2.5 mmol) in THF (70 ml). After stirring for 5 min, chloroacetyl chloride (0.34 g, 3 mmol) was added and the resulting mixture was heated at reflux for 3 hours. The solvent was removed in vacuo and the residue was dissolved in dichloromethane (70 ml), washed with water (20 ml), 2N HCl (30 ml), water (2×30 ml), brine (30 ml) and dried. Solvent was removed in vacuo and the resulting solid was slurried in dichloromethane (10 ml) and ether (10 ml) and filtered to give 0.76 g (84%) of the product: 1H NMR (DMSO-d6) δ 11.15 (s, 1H), 8.87 (t, J=5.9 Hz, 1H), 7.88–7.68 (m, 3H), 5.19–5.12 (dd, J=5.3 and 12.6 Hz, 1H), 4.77 (d, J=5.9 Hz, 2H), 4.19 (s, 2H), 2.96–2.83 (m, 1H), 2.65–2.51 (m, 2H), 2.11–2.04 (m, 1H); 13C NMR (DMSO-d6) δ 172.88, 169.90, 167.53, 167.01, 166.67, 138.46, 134.90, 133.22, 131.63, 127.26, 122.14, 48.94, 42.61, 38.27, 30.99, 22.05.

reactant | Triethylamine | 6 mmol, 0.6 g | C(C)N(CC)CC | C6H15N
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 2.5 mmol, 0.8 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | chloroacetyl chloride | 3 mmol, 0.34 g | ClCC(=O)Cl | C2H2Cl2O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 2-Chloro-N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}acetamide | 0.76 g, 84% | ClCC(=O)NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C16H14ClN3O5
